US03996362
An equimolar mixture of 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, aqueous formaldehyde and 1,8-naphthalimide is suspended in a small amount of dimethylformamide and the mixture is heated until dissolution is complete. The solution is allowed to stand at room temperature and the resulting precipitate is filtered off and dried to yield 2-[1-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]methyl]-1H-benz[de]isoquinoline-1,3(2H)-dione.

reactant | 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | formaldehyde | C=O | CH2O
reactant | 1,8-naphthalimide | C=1C=C2C=CC=C3C2=C(C1)C(=O)NC3=O | C12H7NO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[1-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]methyl]-1H-benz[de]isoquinoline-1,3(2H)-dione | O=C1NC2=C(N1C1CCN(CC1)CN1C(C3=CC=CC=4C3=C(C1=O)C=CC4)=O)C=CC=C2 | C25H22N4O3
